US07893058B2
In the same way as described for Compound 209, step 2, using 4-bromo-5-cyclopropyl-1H-pyrazole (0.477 g, 2.55 mmol), bis(pinacolato)diboron (1.29 g, 5.1 mmol), PdCl2dppf (0.417 g, 0.51 mmol) and KOAc (0.751 g, 7.65 mmol) suspended in DMSO (10 mL). Purification by silica gel column chromatography eluting with a 1:1 mixture petroleum ether:EtOAc affords 5-cyclopropyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (214 mg, 14%). 1H-NMR (400 MHz, CDCl3) δ (ppm).0.83-1.05 (4H, m), 1.25-1.42 (12H, m), 1.81 (1H, m), 7.78 (1H, s).

reactant | 4-bromo-5-cyclopropyl-1H-pyrazole | 2.55 mmol, 0.477 g | BrC=1C=NNC1C1CC1 | C6H7BrN2
reactant | bis(pinacolato)diboron | 5.1 mmol, 1.29 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.65 mmol, 0.751 g | CC(=O)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 5-cyclopropyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 214 mg, 14% | C1(CC1)C1=C(C=NN1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
